US06660744B1
A solution of 3-(4-amino-3-methoxyphenyl)-1-[1-(1-methylpiperidin-4-yl)piperidin-4-yl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine (0.450 g, 1.03 mmol) in pyridine (8 mL) at −5° C. was treated with a solution of 4-(trifluoromethoxy)-1-benzenecarbonyl chloride (0.231 g, 1.03 mmol) in dichloromethane (2.5 mL) drop-wise. The reaction mixture was stirred at −5° C. for 30 min. The ice bath was removed and the reaction mixture was stirred at room temperature for 3 h. 1 N sodium hydroxide solution (10 mL) was added, and stirred for 1 h. The organic solvent was removed under reduced pressure. Dichloromethane (10 mL) was added and the layers were separated using an Empore extraction cartridge. The organic solvent was removed under reduced pressure and the crude compound was purified by flash chromatography on silica gel using 10% methanol in dichloromethane as eluent to give 0.430 g (67%) N1-(4-{4-amino-1-[1-(1-methylpiperidin-4-yl)piperidin-4-yl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}-2-methoxyphenyl)-4-(trifluoromethoxy)benzamide. A hot solution of N1-(4-{4-amino-1-[1-(1-methylpiperidin-4-yl)piperidin-4-yl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}-2-methoxyphenyl)-4-(trifluoromethoxy)benzamide (0.430 g, 0.688 mmol) in ethyl acetate (15 mL) was treated with a hot solution of maleic acid (0.240 g, 2.07 mmol) in ethyl acetate. A precipitate was formed, filtered under nitrogen, and dried under high vacuum to give N1-(4-{4-amino-1-[1-(1-methylpiperidin-4-yl)piperidin-4-yl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}-2-methoxyphenyl)-4-(trifluoromethoxy)benzamide tris-maleate salt.

reactant | 3-(4-amino-3-methoxyphenyl)-1-[1-(1-methylpiperidin-4-yl)piperidin-4-yl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 1.03 mmol, 0.450 g | NC1=C(C=C(C=C1)C1=NN(C2=NC=NC(=C21)N)C2CCN(CC2)C2CCN(CC2)C)OC | C23H32N8O
reactant | 4-(trifluoromethoxy)-1-benzenecarbonyl chloride | 1.03 mmol, 0.231 g | FC(OC1=CC=C(C=C1)C(=O)Cl)(F)F | C8H4ClF3O2
solvent | pyridine | 8 mL | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 2.5 mL | ClCCl | CH2Cl2
product | N1-(4-{4-amino-1-[1-(1-methylpiperidin-4-yl)piperidin-4-yl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}-2-methoxyphenyl)-4-(trifluoromethoxy)benzamide | 0.430 g, 67% | NC1=C2C(=NC=N1)N(N=C2C2=CC(=C(C=C2)NC(C2=CC=C(C=C2)OC(F)(F)F)=O)OC)C2CCN(CC2)C2CCN(CC2)C | C31H35F3N8O3
